datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:16])([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10](=[C:9]([H:14])[H:15])[C:11]([C:12]([H:16])([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])[H:4],38.0326
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[H:14])([H:10])([H:11])[H:12],70.2912
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][O:12][H:13],-3.209128
[C:0](=[C:1]([H:3])[H:4])[H:2].[O:5][O:6]>>[C:0](#[C:1][H:4])[H:2].[H:3][O:5][O:6],13.84904
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]=[C:9]([C:10]([S:11][H:15])([H:13])[H:14])[H:12]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:13])([H:3])([H:4])[H:5].[S:8]=[C:9]([C:10]([S:11][H:15])[H:14])[H:12],-3.7656
[C:0]([O:1])([H:2])([H:3])[H:4].[H:5]>>[C:0](=[O:1])([H:3])[H:4].[H:2][H:5],0.0
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][O:12][C:11]([H:13])([H:14])[H:15],12.020632
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25],50.208
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13],0.0
[H:5].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][H:5].[S:0]=[C:1][S:2][H:4],46.9026
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4](=[C:5]([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:11])[H:12])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1](=[C:2]([H:9])[H:10])[C:3]([H:11])([H:12])[C:4]([C:6]([H:15])([H:16])[H:17])[C:5]1([H:13])[H:14],115.06
[C:5]([H:6])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([H:6])([H:7])[H:8].[S:0]=[C:1]([S:2])[H:3],-6.6944
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])[H:19])([H:17])[H:18])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])=[C:6]([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:10])([H:11])[H:12],100.5
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[O:3][C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[H:13]>>[C:0](=[C:1][C:2]([H:7])([H:8])[H:9])([H:5])[H:6].[O:3]([C:4]([H:10])([H:11])[H:12])[H:13],131.953
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([N:2]([H:7])[H:8])([H:6])[H:9])([H:3])([H:4])[H:5],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18],58.7434
[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])[H:4].[O:7][H:8]>>[C:0](=[C:1]=[N:2][H:6])([H:3])[H:4].[H:5][O:7][H:8],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7]([C:8]([C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:13],60.417
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[S:10])[H:11]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9](=[S:10])[H:11],64.4336
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[C:38]([H:39])([H:40])[H:41]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:23][C:38]([H:39])([H:40])[H:41],22.92832
